US09403782B2
A mixture of 2-(3-hydroxypropyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one (25 mg, 0.069 mmol), Cs2CO3 (67 mg, 0.21 mmol) and 2-fluoropyridine (100 μL) was heated to 155° C. overnight. The reaction was concentrated and purified by reverse phase HPLC to afford 2-(3-(pyridin-2-yloxy)propyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one as a white solid. C23H18F3N3O3. 441.9 (M+1).

reactant | 2-(3-hydroxypropyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | 0.069 mmol, 25 mg | OCCCN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C18H15F3N2O3
reactant | Cs2CO3 | 0.21 mmol, 67 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-fluoropyridine | 100 μL | FC1=NC=CC=C1 | C5H4FN
product | 2-(3-(pyridin-2-yloxy)propyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | N1=C(C=CC=C1)OCCCN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C23H18F3N3O3
